US09212182B2
A RBF was charged with 1-(4-bromo-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoxaline-6-sulfonyl chloride (0.800 g, 1.862 mmol), DCM (3.12 ml), and 3-aminoisoxazole (0.206 ml, 2.79 mmol) to give a thick suspension. Pyridine (6.21 ml) was added relatively quickly, leading to thinner suspension. After 2 h, the mixture was concentrated in vacuo. The residue was partitioned between EtOAc and 2N aq. HCl. The layers were separated, and the aq. layer was extracted with EtOAc (2×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel (50-g SNAP Ultra column, 0-50% 3:1 EtOAc/EtOH in heptane with 10% DCM) to give 1-(4-bromo-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoxaline-6-sulfonamide (0.751 g, 1.573 mmol, 85% yield) as a white foam. m/z (ESI) 478.9 (M+H)+.

reactant | 1-(4-bromo-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoxaline-6-sulfonyl chloride | 1.862 mmol, 0.800 g | BrC1=CC(=C(C=C1)N1C(C=NC2=CC(=CC=C12)S(=O)(=O)Cl)=O)OC | C15H10BrClN2O4S
reactant | DCM | 3.12 ml | C(Cl)Cl | CH2Cl2
reactant | 3-aminoisoxazole | 2.79 mmol, 0.206 ml | NC1=NOC=C1 | C3H4N2O
solvent | Pyridine | 6.21 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-bromo-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoxaline-6-sulfonamide | 1.573 mmol, 0.751 g, 85% yield | BrC1=CC(=C(C=C1)N1C(C=NC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C18H13BrN4O5S
